US09035059B2
2-Bromo-1-(4-tert-butylphenyl)ethanone
Pyrrolidone trihydrobromide (3.27 g, 10.0 mmol) was added to a solution of 1-(4-tert-butylphenyl)ethanone obtained (1.61 g, 9.13 mmol) in tetrahydrofuran (30 mL) and the mixture was heated to an external temperature of 60° C. and stirred for 30 min. After cooling, water was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate and then the desiccant was filtered off, followed by concentration under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane only→hexane:ethyl acetate=9:1) to afford the title compound as a colorless oil (472 mg).

reactant | Pyrrolidone trihydrobromide | 10.0 mmol, 3.27 g | Br.Br.Br.N1C(CCC1)=O
reactant | 1-(4-tert-butylphenyl)ethanone | C(C)(C)(C)C1=CC=C(C=C1)C(C)=O | C12H16O
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-Bromo-1-(4-tert-butylphenyl)ethanone | 472 mg | BrCC(=O)C1=CC=C(C=C1)C(C)(C)C | C12H15BrO
